US04052455
Reaction of acetamidine with 2-nitrostyrylsulfonyl chloride according to the above procedure affords N-(2-NITROSTYRYL-SULFONYL)ACETAMIDINE, m.p. 175°-178° C.

reactant | acetamidine | C(C)(=N)N | C2H6N2
reactant | 2-nitrostyrylsulfonyl chloride | [N+](=O)([O-])C1=C(C=CS(=O)(=O)Cl)C=CC=C1 | C8H6ClNO4S
product | N-(2-NITROSTYRYL-SULFONYL)ACETAMIDINE | [N+](=O)([O-])C1=C(C=CS(=O)(=O)NC(C)=N)C=CC=C1 | C10H11N3O4S
